US06306880B1
(2R,3R)-2-(2,4-Difluorophenyl)-3-[(1,3-dihydroxy-2-propyl]thio]-1-(1H- 1,2,4-triazol-1-yl)-2-butanol
In 3.5 ml of methanol were dissolved 353 mg of (2R,3R)-2-(2,4-difluorophenyl)-3-[[trans-2-phenyl-1,3-dioxan-5-yl]thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol as described in Example 40, and 0.35 ml of a 4N HC1-dioxane solution were added to the solution, followed by stirring of the resulting mixture at room temperature for 30 minutes. To the reaction mixture were added 250 mg of a NaHCO3 powder, and the mixture was stirred for 10 minutes, followed by filtration of the reaction mixture and concentration of the filtrate under reduced pressure. The thus obtained oil was subjected to column chromatography using 5 g of silica gel and eluted with 10% methanol-ethyl acetate to obtain 179 mg (yield: 88%) of the title compound as a viscous oil.

reactant | (2R,3R)-2-(2,4-difluorophenyl)-3-[[trans-2-phenyl-1,3-dioxan-5-yl]thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol | 353 mg | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)S[C@H]1CO[C@@H](OC1)C1=CC=CC=C1)O | C22H23F2N3O3S
reactant | NaHCO3 | 250 mg | C(=O)(O)[O-].[Na+]
solvent | methanol | 3.5 ml | CO | CH4O
product | (2R,3R)-2-(2,4-Difluorophenyl)-3-[(1,3-dihydroxy-2-propyl]thio]-1-(1H- 1,2,4-triazol-1-yl)-2-butanol | 179 mg, yield: 88% | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)SC(CO)CO)O | C15H19F2N3O3S
